data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4271,4885,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([C:20]#[N:21])[C:22]#[N:23],water,298.15,20.052494634286266,-12.951820435724349
4814,5495,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([CH3:22])[C:23]([CH3:24])=[O:25],water,298.15,24.34390440151441,-10.65301346581868
3502,3993,[CH2:11]=[NH+:12][C-:13]([CH3:14])[C:15](=[O:16])[O:17][CH3:18].[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH2:11][NH:12][C:13]2([CH3:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,22.966156688862508,-22.19150077104797
3926,4491,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]([CH3:19])=[O:20],water,298.15,21.33201052991232,-10.15855101941182
2790,3100,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][O:24][C:25](=[O:26])[c-:27]1[c:28](=[O:29])[o:30][c:31](-[c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[n+:38]1[CH3:39]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]1([C:25]([O:24][CH3:23])=[O:26])[C:28](=[O:29])[O:30][C:31]2([c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[N:38]1[CH3:39],water,298.15,27.039913196274533,1.4062788070836172
4713,5381,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]=[C:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,16.87707870259432,-38.83043388439624
1358,1493,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[N+:18]([CH3:19])[C-:20]([CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,14.124319257293664,-27.48738490696843
359,390,[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][NH-:17].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])=[N:16][NH:17]3,water,298.15,13.214830505606232,-62.29938780791842
4638,5291,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[NH:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:22](=[O:23])[O:24][CH3:25],water,298.15,23.39189140718989,-6.036066564357369
2681,2979,[CH3:15][NH:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22](=[O:23])[NH:24][CH3:25])([C:26](=[O:27])[O:28][CH3:29])[NH:20][N:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,40.619743687946674,-25.47587662417407
4368,4989,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]1([C:18]([CH3:19])=[O:20])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22](=[O:23])[O:21]1,water,298.15,15.952697006721063,-16.259155163075388
48,57,[CH3:1][C:2]#[C:3][F:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[O+:12]=[C:13]([CH3:14])[CH3:15]>>[CH3:1][C:2]1=[C:3]([F:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:10]#[N:11])[O:12][C:13]1([CH3:14])[CH3:15],water,298.15,19.05139380688601,-67.42671176890343
